US07696193B2
Step 1: 1,1-Dimethylethyl 7-[(2-fluoro-4-nitrophenyl)oxy]-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate
3,4-difluoronitrobenzene (664 mg, 4.18 mmol) was added to a mixture of 7-hydroxy-1,2,4,5-tetrahydro-benzo[d]azepine-3-carboxylic acid tert-butyl ester (WO 02/40471) (1 g, 3.8 mmol) and potassium carbonate (1.3 g, 9.49 mmol) in dimethylformamide (10 ml) and the reaction heated at 130° C. for 3 hours. The reaction was cooled, diluted with ethyl acetate, washed with water and then with a mixture of water:brine (1:1), dried over sodium sulfate and concentrated in vacuo. The resulting residue was purified by column chromatography eluting with a mixture of ethyl acetate:pentane (1:10) to afford the title compound. MS (ES+) m/e 303 [M-COOtBu]+.

reactant | 3,4-difluoronitrobenzene | 4.18 mmol, 664 mg | FC=1C=C(C=CC1F)[N+](=O)[O-] | C6H3F2NO2
reactant | 7-hydroxy-1,2,4,5-tetrahydro-benzo[d]azepine-3-carboxylic acid tert-butyl ester | 3.8 mmol, 1 g | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C=C(C=C2)O | C15H21NO3
reactant | potassium carbonate | 9.49 mmol, 1.3 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1,1-Dimethylethyl 7-[(2-fluoro-4-nitrophenyl)oxy]-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate | FC1=C(C=CC(=C1)[N+](=O)[O-])OC1=CC2=C(CCN(CC2)C(=O)OC(C)(C)C)C=C1 | C21H23FN2O5
